US08293735B2
(R)-Octahydro-pyrazino[2,1-c][1,4]oxazine
To a solution of (R)-hexahydro-pyrazino[2,1-c][1,4]oxazin-4-one (60 mg, 0.39 mmol) in dioxane (5 mL) was added LiAlH4 (1.5 mL, 1M solution in THF). The resulting mixture was heated at 80° C. for 2.5 h before the addition of iPrOH (0.5 mL) followed by a saturated aqueous solution of Na2SO4 (3 mL). Further Na2SO4 was added and the resulting mixture filtered through celite, washing with EtOAc. The resulting residue was purified by NH2 column to give the title compound as an oil (40 mg, 73%).

reactant | (R)-hexahydro-pyrazino[2,1-c][1,4]oxazin-4-one | 0.39 mmol, 60 mg | C1OCC(N2[C@@H]1CNCC2)=O | C7H12N2O2
reactant | LiAlH4 | 1M, 1.5 mL | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | iPrOH | 0.5 mL | CC(C)O | C3H8O
reactant | Na2SO4 | 3 mL | [O-]S(=O)(=O)[O-].[Na+].[Na+]
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | (R)-Octahydro-pyrazino[2,1-c][1,4]oxazine | 40 mg, 73% | C1OCCN2[C@@H]1CNCC2 | C7H14N2O
